US07582773B2
Step 4: Synthesis of 4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenol.
The desired product was prepared using a procedure similar to step 4 of example 3. Thus, 1-benzyl-5-(4-methoxy-phenyl)-2,3-dimethyl-1H-indole (0.925 g, 2.709 mmol) was reacted with BBr3 (3.3 ml of a 1M solution in CH2Cl2) to give the product (0.608 g, 1.857 mmol, 69%) as a brown glass. 1H NMR (DMSO-d6) δ 2.23 (s, 3H), 2.27 (s, 3H), 5.38 (s, 2H), 6.81 (d, J=8.4 Hz, 2H), 6.98 (d, J=7.5 Hz, 2H), 7.19-7.23 (m, 2H), 7.27 (t, J=7.3 Hz, 2H), 7.34 (d, J=8.6 Hz, 1H), 7.46 (d, J=8.4 Hz, 2H), 7.57 (s, 1H), 9.32 (s, 1H); [ESI(+)], m/z 328 (M+H)+.

reactant | 1-benzyl-5-(4-methoxy-phenyl)-2,3-dimethyl-1H-indole | 2.709 mmol, 0.925 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)C)C | C24H23NO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenol | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)C)C | C23H21NO
